US04210655
12.2 g of salicylaldehyde and 16.4 g of 2-(chloromethyl)-pyridine-hydrochloride are, after the addition of 55.2 g of potassium carbonate and 0.2 g of potassium iodide in 200 ml of isopropanol, refluxed for 12 hours with thorough stirring. The hot reaction mixture is filtered, and concentrated in vacuo. The residue is dissolved in 100 ml of chloroform, and the solution extracted with 2 N sodium hydroxide solution and then with water. The chloroform solution is subsequently dried over anhydrous sodium sulphate, and concentrated in vacuo. The oil remaining is dissolved in benzene, and filtered through 200 g. of aluminium oxide (2% water). The filtrates are concentrated by evaporation, and the residue distilled in high vacuum to obtain 2-(2-pyridylmethoxy)-benzaldehyde as colourless viscous oil, B.P. 135°-164°/0.04 Torr, which, after solidification, melts at 69°-71°. This substance is heated for 30 minutes at 300° in a nitrogen atomosphere; after cooling, it is dissolved in methylene chloride, and the solution filtered through aluminium oxide (2% water). From the filtrate there is obtained 2-(2-benzofuranyl)-pyridine in the form of yellowish crystals, M.P. 86°-87° (from isopropanol).

reactant | salicylaldehyde | 12.2 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2-(chloromethyl)-pyridine-hydrochloride | 16.4 g | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 2-(2-pyridylmethoxy)-benzaldehyde | N1=C(C=CC=C1)COC1=C(C=O)C=CC=C1 | C13H11NO2
